US06720322B2
To a solution of 21.5 g of 2-butyne-1,4-diol in 200 ml of DMF and 50 ml of DMPU was added in portions 5.5 g of NaH 55% in mineral oil. After the evolution of gas had ceased 5.04 g of 5-isopropyl-N-[6-chloro-5-(p-tolyl)-4-pyrimidinyl]-2-pyridine sulfonamide was added and the resulting mixture was stirred for 80 h at 90° C. The solvent was removed in vacuo and the residue was partitioned between 300 ml of 10% aqueous citric acid and 300 ml of ethyl acetate. The aqueous phase was extracte two more times with ethyl acetate. The combined organic layers were washed with water and brine, dried over MgSO4 and evaporated. The crude product was purified by column chromatography on silica gel eluting with hexane:ethyl acetate from 1:1 to 1:4 to give 2.0 g of 5-isopropyl-N-[6-(4-hydroxy-2-butynyloxy)-5-(p-tolyl)-4-pyrimidinyl]-2-pyridine sulfonamide as a brown solid. LC-MS: tR=4.64 min, [M+1]+=453.28, [M−1]−=451.40.

reactant | 2-butyne-1,4-diol | 21.5 g | C(C#CCO)O | C4H6O2
reactant | NaH | 5.5 g | [H-].[Na+]
reactant | 5-isopropyl-N-[6-chloro-5-(p-tolyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 5.04 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C19H19ClN4O2S
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMPU | 50 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 5-isopropyl-N-[6-(4-hydroxy-2-butynyloxy)-5-(p-tolyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 2.0 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCC#CCO | C23H24N4O4S
